US06927228B2
N-Methyl-N-[4′-(2-phenylcarbamoylpropyl)biphenyl-3-ylmethyl]benzamide
By reacting a solution of 637 mg (1.6 mmol) of 3-(3′-{[methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride in 5 ml of THF with 146 μl (1.6 mmol) of benzylamine in the presence of 250 μl (1.8 mmol) of triethylamine (1.6 mmol), and after purification by chromatography on a column of silica, 370 mg (50%) of N-methyl-N-[4′-(2-phenyl-carbamoylpropyl)biphenyl-3-ylmethyl]benzamide, with a melting point of 68-69° C., are obtained.

reactant | 3-(3′-{[methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride | 1.6 mmol, 637 mg | CN(C(=O)C1=CC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)Cl | C24H22ClNO2
reactant | benzylamine | 1.6 mmol, 146 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 1.8 mmol, 250 μl | C(C)N(CC)CC | C6H15N
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | N-Methyl-N-[4′-(2-phenylcarbamoylpropyl)biphenyl-3-ylmethyl]benzamide | CN(C(C1=CC=CC=C1)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C)C(NC1=CC=CC=C1)=O | C31H30N2O2
